US07759376B2
Step 2. Preparation of 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-chlorobiphenyl-4-carboxylic Acid
Methyl 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-chlorobiphenyl-4-carboxylate (0.30 g, 0.71 mmol) was suspended in THF (5 mL), MeOH (5 mL) and water (2.5 mL), and then NaOH (0.28 g, 7.1 mmol) was added. The reaction mixture was heated at 50° C. for 3 h. Upon cooling to rt, the reaction mixture was concentrated under reduced pressure, acidified, and the resulting solid was collected by filtration. This yielded 0.34 g (quantitative) of the title compound. LC/MS m/z 399.2 (MH+), retention time 3.53 min.

reactant | Methyl 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-chlorobiphenyl-4-carboxylate | 0.71 mmol, 0.30 g | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC(=C(C=C2)C(=O)OC)Cl)C=C1 | C21H14ClFN2O2S
reactant | MeOH | 5 mL | CO | CH4O
reactant | water | 2.5 mL | O | H2O
reactant | NaOH | 7.1 mmol, 0.28 g | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-chlorobiphenyl-4-carboxylic Acid | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC(=C(C=C2)C(=O)O)Cl)C=C1 | C20H12ClFN2O2S
